Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo G2P1 at 29 ___ ___ age presents with vaginal
bleeding since ___.  Describes as dark blood, amount c/w 
period,
soaked through underwear but not pants.  + ctx q ___ min, 
started
1800, describes as crampy.  + FM.  No LOF.  No abd pain besides
cramping.  No abd trauma.  No recent intercourse.

PNC:  ___ ___ by LMP c/w ___ tri ultrasound
A+/Ab-/RPRNR/RI/HBsAg-/GBS unk/VI/Hgb nl/GLT 118/HIV-/CF-
___ FFS S=D, no anomalies, placenta ant with no previa

 
Past Medical History:
POB: ___ SVD 8#8 at 41 ___ age c/b GDMA1

PGYN: HSVII, + abnl PAP with bx showing HPV changes.  + hx CT.
___ GC-/CT-, ___ BV neg, yeast neg

PMH: benign
PSH: wisdom teeth

 
Social History:
no t,e,d.  married, presents with husband.
 
Physical Exam:
97.6  70  18  110/61
NAD
CTAB
RRR
abd gravid, soft, mild suprapub tend, no rebound/guarding
SSE approx 3 cc dark blood and old appearing clot in vault.  cx
appears long and sl open
SVE long, ext os 2, int os 1, high

FHT 130, mod var, AGA, no decels
toco q 2 min

 
Pertinent Results:
TAUS frank breech, BPP ___, AFI 18, EFW 1360 gm (~50%), placenta
ant, no previa

___ 
WBC-12.4 RBC-3.78* HGB-12.7 HCT-35.0PLT COUNT-223
___ PTT-25.4 ___ FIBRINOGEN-460
URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG cocaine-NEG 
amphetmn-NEG mthdone-NEG
URINE  COLOR-Straw APPEAR-Clear SP ___
URINE  BLOOD-SM  NITRITE-NEG PROTEIN-NEG GLUCOSE-NEG KETONE-TR 
BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 LEUK-NEG
 
Brief Hospital Course:
Ms ___ was admitted to the antepartum service after a vaginal 
bleed. She is Rh+. The abruption labs were normal. She initially 
was contracting. Her cervical exam remained 1/long/high. She 
awas initially give Nifedipine but this was discontinued due to 
hypotension. She then was placed on Magnesium. She was given 
steroids for fetal lung maturity.NICU was consulted and 
counseled the patient.  The Magneisum was discontinued after she 
was Betamethasone complete. She did not contract after the 
magnesium was discontinued. Fetal testing was reassuring with 
EFW 1360 grams (50%), ___ placenta with out evidence of 
placenta previa. On day of admission ___ she also has BPP ___, 
AFI 18 breech. She had no bleeding for 4 days and was discharged 
home. 

 
Medications on Admission:
PNV, acyclovir

 
Discharge Medications:
PNV, acyclovir
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
SIUP @ 29 ___.
Probable small placenta abruptio.
Pre-term contractions.

 
Discharge Condition:
stable

 
Discharge Instructions:
Modified bedrest.
Restrictions were discussed with patient.
 
Followup Instructions:
___